US05179085
Diethyl[[2-(bromomethyl)phenyl]methyl]phosphonate.
A suspension of sodium hydride (60% in oil, 1.4 g, 35 mmol) in anhydrous tetrahydrofuran (75 ml) is stirred under a nitrogen atmosphere and a solution of diethylphosphite (4.82 g, 34.9 mmol) in tetrahydrofuran (20 ml) is added dropwise. The reaction mixture is stirred an additional 20 minutes. A solution of 1,2-bis(bromomethyl)benzene (10.56 g, 40 mmol) in anhydrous tetrahydrofuran (150 ml) is treated dropwise with the solution of sodium diethylphosphite generated above. The reaction mixture is stirred 6.5 hours at room temperature, and then quenched with water and diluted with diethyl ether. The diethyl ether layer is separated, washed with water (2×100 ml), and dried over magnesium sulfate. After filtration and evaporation, the residue is chromatographed over silica gel (ethyl acetate as eluant) to give a clear oil (1.8 g).

reactant | sodium hydride | 35 mmol, 1.4 g | [H-].[Na+]
reactant | diethylphosphite | 34.9 mmol, 4.82 g | C(C)OP(OCC)[O-]
reactant | 1,2-bis(bromomethyl)benzene | 40 mmol, 10.56 g | BrCC1=C(C=CC=C1)CBr | C8H8Br2
reactant | sodium diethylphosphite | C(C)OP(OCC)[O-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | Diethyl[[2-(bromomethyl)phenyl]methyl]phosphonate | 1.8 g | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)CBr | C12H18BrO3P
